US08809331B2
A mixture of 5-chloro-2-methyl-4-nitrobenzonitrile (1 g, 5 mmol) in AcOH (10 mL), water (10 mL) and conc. sulfuric acid (10 mL) was heated to 120° C. for 5 h. Water (100 mL) was added and the solid was removed by filtration and dried to give 5-chloro-2-methyl-4-nitrobenzoic acid (905 mg, 84%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M−H]−=214 at 2.12 min. 1H NMR (400 MHz, CDCl3): δ 8.22 (s, 1H), 7.76 (s, 1H), 2.70 (s, 3H).

reactant | 5-chloro-2-methyl-4-nitrobenzonitrile | 5 mmol, 1 g | ClC=1C(=CC(=C(C#N)C1)C)[N+](=O)[O-] | C8H5ClN2O2
reactant | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
solvent | Water | 100 mL | O | H2O
product | 5-chloro-2-methyl-4-nitrobenzoic acid | 905 mg, 84% | ClC=1C(=CC(=C(C(=O)O)C1)C)[N+](=O)[O-] | C8H6ClNO4
